US08686152B2
To a solution of 4-(3,5-bis-trifluoromethylphenyl)-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester (0.5 mmol; 220.7 mg) in DMF (2 mL) was added cyclohexylmethylamine (0.6 mmol; 0.078 mL), N, N-diisopropyl-N-ethylamine (1 mmol; 0.174 mL) and HBTU (0.6 mmol; 228 mg), and the resulting mixture was stirred at room temperature overnight. The mixture was then purified via reverse phase HPLC. The desired fractions were combined and lyophilized. The resulting residue was dissolved in 1,4-dioxane (3 mL) and a 4N HCl solution in 1,4-dioxane (3 mL) was added. The resulting mixture was stirred for 2 hours at room temperature, then evaporated to yield 4-(3,5-bis-trifluoromethylphenyl)-piperidine-4-carboxylic acid cyclohexylmethylamide as a hydrochloride salt. MS (ESI) m/z 437.3 [M+H]+.

reactant | 4-(3,5-bis-trifluoromethylphenyl)-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | 0.5 mmol, 220.7 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C19H21F6NO4
reactant | cyclohexylmethylamine | 0.6 mmol, 0.078 mL | C1(CCCCC1)CN | C7H15N
reactant | N, N-diisopropyl-N-ethylamine | 1 mmol, 0.174 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 0.6 mmol, 228 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-(3,5-bis-trifluoromethylphenyl)-piperidine-4-carboxylic acid cyclohexylmethylamide | C1(CCCCC1)CNC(=O)C1(CCNCC1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C21H26F6N2O
